US07001897B2
Subsequently, to a solution of 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (500 mg, 1.07 mmol) in toluene (25 ml) was added a solution of 0.67M 3-methoxyazetidine-trimethylaluminium in benzene (3.21 ml) at room temperature under an atmosphere of nitrogen. The mixture was stirred in a water bath (80° C.) for 1 hour. After checking the completion of the reaction, 10% aqueous acetic acid solution (20 ml) and ethyl acetate (50 ml) were added to the reaction mixture in an ice bath, and the resulting mixture was stirred at room temperature for 1 hour. After adding ethyl acetate thereto, the reaction mixture was partitioned between ethyl acetate and water. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 3-t-butyldiphenylsilyloxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (366 mg, yield 67%) as a pale brown solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 1.07 mmol, 500 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
reactant | 3-methoxyazetidine trimethylaluminium | 0.67M | COC1CNC1.C[Al](C)C
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 3.21 ml | C1=CC=CC=C1 | C6H6
product | 3-t-butyldiphenylsilyloxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 366 mg, yield 67% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)OC | C27H33N3O3SSi
